US07414067B2
Step A: N-Cyclohexyl-N-thiazol-2-yl-5-methoxy-2-methylindole-3-acetamide
A solution of 2.42 g (0.0045 mol) of N-Cyclohexyl-N-thiazol-2-yl-1-(4-chlorobenzoyl)-5-methoxy-2-methylindole-3-acetamide in 2.4 mL of dichloromethane, 48 mL of methanol and 24 mL of 1N aqueous NaOH solution was stirred at rt for 90 min. During this time, the title compound formed as a precipitate. It was filtered, washed with water and dried.

reactant | N-Cyclohexyl-N-thiazol-2-yl-1-(4-chlorobenzoyl)-5-methoxy-2-methylindole-3-acetamide | 0.0045 mol, 2.42 g | C1(CCCCC1)N(C(CC1=C(N(C2=CC=C(C=C12)OC)C(C1=CC=C(C=C1)Cl)=O)C)=O)C=1SC=CN1 | C28H28ClN3O3S
solvent | dichloromethane | 2.4 mL | ClCCl | CH2Cl2
solvent | methanol | 48 mL | CO | CH4O
solvent | NaOH | 1N, 24 mL | [OH-].[Na+]
product | N-Cyclohexyl-N-thiazol-2-yl-5-methoxy-2-methylindole-3-acetamide | C1(CCCCC1)N(C(CC1=C(NC2=CC=C(C=C12)OC)C)=O)C=1SC=CN1 | C21H25N3O2S
